US07829560B2
3-Fluoro-N-(4-{[2-(3-hydroxypiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4 -ylbenzamide (Compound B346).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and piperidin-3-ol according to conditions described in general procedure C. Mp: 180-181° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.26-1.31 (m, 2 H), 1.54 (s, 2 H), 1.81-1.83 (m, 2 H), 2.70-2.82 (m, 2 H), 3.27 (t, J=4.4 Hz, 4 H), 3.36 (s, 2 H), 3.77 (t, J=4.8 Hz, 4 H), 4.22 (bs, 1 H), 4.82 (s, 1 H), 6.16 (d, J=5.1Hz, 1 H), 7.03-7.06 (m, 1 H), 7.26 (d, J=8.4 Hz, 1 H), 7.43 (d, J=8.0 Hz, 1 H), 7.50 (s, 1 H), 7.55-7.63 (m, 3 H), 7.84-7.87 (m, 1 H), 7.99-8.01 (m, 1 H), 8.25 (d, J=5.8 Hz, 1 H), 10.49 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | piperidin-3-ol | N1CC(CCC1)O | C5H11NO
product | 3-Fluoro-N-(4-{[2-(3-hydroxypiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4 -ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CC(CCC2)O)C=C(C1)N1CCOCC1 | C30H30FN5O4
